US06087389
(1RS,2SR,3RS)-1-(2-Methoxyphenyl)-3-(3,4-methylenedioxyphenyl)indane-2-carboxylic acid
Ethyl (1RS,2RS,3RS)-1-(2-Methoxyphenyl)-3-(3,4-methylenedioxyphenyl)indane-2-carboxylate. To a solution of ethyl (RS)-1-(2-methoxyphenyl)-3-(3,4-methylenedioxyphenyl)indene-2-carboxylate (90 mg, 0.22 mmol) in EtOH (10 ml) was added 10% palladium on activated carbon (90 mg). The resulting suspension was shaken on a Parr hydrogenator at 60 psi H2 overnight, then was filtered through a pad of Celite. The filtrate was concentrated under reduced pressure to afford the title compound (90 mg, 100%), which was used without further purification.

reactant | Ethyl (1RS,2RS,3RS)-1-(2-Methoxyphenyl)-3-(3,4-methylenedioxyphenyl)indane-2-carboxylate | COC1=C(C=CC=C1)C1C(C(C2=CC=CC=C12)C1=CC2=C(C=C1)OCO2)C(=O)OCC | C26H24O5
reactant | ethyl (RS)-1-(2-methoxyphenyl)-3-(3,4-methylenedioxyphenyl)indene-2-carboxylate | 0.22 mmol, 90 mg | COC1=C(C=CC=C1)C1C(=C(C2=CC=CC=C12)C1=CC2=C(C=C1)OCO2)C(=O)OCC | C26H22O5
solvent | EtOH | 10 ml | CCO | C2H6O
catalyst | palladium on activated carbon | 90 mg | [Pd] | Pd
product | (1RS,2SR,3RS)-1-(2-Methoxyphenyl)-3-(3,4-methylenedioxyphenyl)indane-2-carboxylic acid | 90 mg, 100% | COC1=C(C=CC=C1)C1C(C(C2=CC=CC=C12)C1=CC2=C(C=C1)OCO2)C(=O)O | C24H20O5
